data/rdb19/train.csv
rxn,smiles,ea
1962,[C:11]([C:12]([O:13][C:14](=[O:15])[C:16]([C:17]([H:27])([H:28])[H:29])([C:18]([H:19])[H:20])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:18]([C:16]([C:14]([O:13][C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])=[O:15])([C:17]([H:27])([H:28])[H:29])[H:26])([H:19])[H:20])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],26.39632421778515
1241,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],26.186509037332144
5274,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2](=[C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:14])([H:11])([H:12])[H:13].[H:15][O:27][C:26]([N:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])[H:37])[H:38],40.36320763756521
2370,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1]([C:2]([H:3])([H:4])[C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:5])([H:6])[H:7].[C:8]([H:18])([H:19])[H:20],66.39135080715641
1347,[C:10]([C:11]([C:12]([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[C:14](=[O:15])[N:16]([H:22])[H:23])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:21])[H:6],35.34758719638921
3356,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:27])([H:5])([H:6])[H:7],34.13438746565953
4655,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]1([C:18](=[C:17]([H:25])[H:26])[H:27])[C:20]([H:28])[C:21]([H:29])=[C:22]([H:30])[C:23]([H:31])=[C:24]1[H:32],44.84451681253268
1027,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[O:18][C:17]([C:15]([C:14]([H:20])([H:21])[H:22])=[C:16]([H:23])[H:24])[O:19][H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],30.332928607065696
5448,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:5]([C:6](=[O:7])[H:18])[H:17])([H:13])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],70.1723264355096
990,[C:14]([C:15](=[C:16]([H:21])[H:22])[C:17]([H:23])([H:24])[H:25])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:15](=[C:16]([H:21])[H:22])[C:17]([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:14]([H:18])([H:19])[H:20],78.73157240566798
5382,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1([C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([H:28])[H:29])([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],22.13648074155208
